US08039469B2
Step 1: Preparation of 3-(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-yloxy)-8-methyl-8-aza-bicyclo[3.2.1]octane
In a three neck flask equipped with stirring bar under N2 atmosphere tropine (1 g, 4.24 mmol) was suspended in (anhydrous) THF (15 mL). The mixture was cooled to −78° C. and BuLi (2M in THF) (5.53 ml, 1.2 eq) was added dropwise and the mixture was allowed to warm to 25° C. over 30 minutes. To the reaction mixture 2,4,-dichloro-6-morpholin-4-yl-[1,3,5]triazine (996 mg, 4.24, mmole) was added and allowed to stir overnight. For work up, ether (100 mL) was added. The organic layer was washed with water (20 mL) and brine (20 mL) and dried over MgSO4, filtered and the solvents were removed to obtain a colorless oil. Further purification by flash-chromatography using CH2Cl2/MeOH/NH3 (15:1:0.1) gave the product as white solid (600 mg, 42% yield); MS (ESI) m/z 340

reactant | tropine | 4.24 mmol, 1 g | CN1C2CCC1CC(C2)O | C8H15NO
reactant | BuLi | 2M, 5.53 ml, 1.2 eq | [Li]CCCC
reactant | 2,4,-dichloro-6-morpholin-4-yl-[1,3,5]triazine | 996 mg | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-yloxy)-8-methyl-8-aza-bicyclo[3.2.1]octane | 600 mg, 42% yield | ClC1=NC(=NC(=N1)N1CCOCC1)OC1CC2CCC(C1)N2C | C15H22ClN5O2
